US07858613B2
(3-Trifluoromethylphenyl)thiocarbamic acid O-(6-hydroxymethyl-5-oxo-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-ylmethyl)ester
To a solution of 6,6-bis(hydroxymethyl)-6,7,8,9-tetrahydrobenzocyclohepten-5-one (500 mg, 2.27 mmol) in 28 ml of tetrahydrofuran were added, at room temperature, triethylamine (0.35 ml, 2.5 mmol) and 3-(trifluoromethyl)phenyl isothiocyanate (862 μl, 5.68 mmol). The mixture was heated to reflux for 72 hours, concentrated and purified by column chromatography on silica gel (eluent: 1:2 ethyl acetate/hexane). The product was obtained in a yield of 284 mg (30%).

reactant | 6,6-bis(hydroxymethyl)-6,7,8,9-tetrahydrobenzocyclohepten-5-one | 2.27 mmol, 500 mg | OCC1(C(C2=C(CCC1)C=CC=C2)=O)CO | C13H16O3
reactant | triethylamine | 2.5 mmol, 0.35 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(trifluoromethyl)phenyl isothiocyanate | 5.68 mmol, 862 μl | FC(C=1C=C(C=CC1)N=C=S)(F)F | C8H4F3NS
solvent | tetrahydrofuran | 28 ml | O1CCCC1 | C4H8O
product | (3-Trifluoromethylphenyl)thiocarbamic acid O-(6-hydroxymethyl-5-oxo-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-ylmethyl)ester | OCC1(C(C2=C(CCC1)C=CC=C2)=O)COC(NC2=CC(=CC=C2)C(F)(F)F)=S | C21H20F3NO3S
